US06359134B1
4-(6-Chloronaphthalene-2-sulfonyl)-1-[4-(2-cyanoethyl)benzoyl]piperazine
4-(6-Chloronaphthalene-2-sulfonyl)-1-[4-(2-cyano-1-ethenyl)benzoyl]piperazine (699 mg) was dissolved in pyridine (15 ml) and methanol (5 ml), and to the mixture was added sodium borohydride (68 mg). The mixture was stirred at 60° C. for 2 hours and concentrated. To the residue was added diluted hydrochloric acid, and the mixture was extracted with ethyl acetate. The extract was washed with saturated sodium bicarbonate aqueous solution and brine in this order, dried and concentrated. The residue was purified with silica gel column chromatography (hexane: ethyl acetate=2:3) to give colorless crystals of the title compound (450 mg).

reactant | 4-(6-Chloronaphthalene-2-sulfonyl)-1-[4-(2-cyano-1-ethenyl)benzoyl]piperazine | 699 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C=CC#N)=O | C24H20ClN3O3S
reactant | sodium borohydride | 68 mg | [BH4-].[Na+]
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
solvent | methanol | 5 ml | CO | CH4O
product | 4-(6-Chloronaphthalene-2-sulfonyl)-1-[4-(2-cyanoethyl)benzoyl]piperazine | 450 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)CCC#N)=O | C24H22ClN3O3S
